US08071592B2
(d) 10-(2-Propen-1-yl)-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-10-ium Iodide
2,3-Dihydro[1,4]dioxino[2,3-h]quinoline (3.65 g; 19.52 mmol) and allyl iodide (6.52 ml; 39.04 mmol) were refluxed in toluene (50 ml) at 100° C. After 2.5 h more allyl iodide (0.65 ml; 3.9 mmol) was added to the mixture and the reaction continued under the same conditions for a further 0.5 h. The solvent was removed and the tar like product washed with toluene. This was dried under high vacuum overnight to afford the desired product (5.91 g; 85%).

reactant | 2,3-Dihydro[1,4]dioxino[2,3-h]quinoline | 19.52 mmol, 3.65 g | O1CCOC=2C=CC=3C=CC=NC3C21 | C11H9NO2
reactant | allyl iodide | 39.04 mmol, 6.52 ml | C(C=C)I | C3H5I
reactant | allyl iodide | 3.9 mmol, 0.65 ml | C(C=C)I | C3H5I
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 10-(2-Propen-1-yl)-2,3-dihydro[1,4]dioxino[2,3-h]quinolin-10-ium Iodide | 5.91 g, 85% | [I-].C(C=C)[N+]1=CC=CC=2C=CC3=C(C12)OCCO3 | InChI=1S/C14H14NO2.HI/c1-2-7-15-8-3-4-11-5-6-12-14(13(11)15)17-10-9-16-12;/h2-6,8H,1,7,9-10H2;1H/q+1;/p-1
